US08859553B2
4-Chloro-3-(2-(6-(cyclopropylamino)pyridazin-3-yl)ethynyl)-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide
The title compound was synthesized from N-cyclopropyl-6-ethynylpyridazin-3-amine and 4-chloro-3-iodo-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide in a manner similar to that described for in Example 1. The intermediate compound 4-chloro-3-iodo-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide was made as for Example 12 (Step 1 to 4) with the spectra below: 1H NMR (300 MHz, DMSO-d6) δ: 10.66 (1H, s), 8.53 (1H, s), 8.19 (1H, s), 8.02-8.05 (1H, d, J=6.0 Hz), 7.98-8.01 (1H, d, J=6.0 Hz), 7.77 (1H, s), 7.70-7.73 (1H, d, J=6.0 Hz), 3.62 (2H, s), 3.33 (2H, m), 2.82 (2H, m), 2.54 (4H, m), 2.50 (3H, s).

reactant | N-cyclopropyl-6-ethynylpyridazin-3-amine | C1(CC1)NC=1N=NC(=CC1)C#C | C9H9N3
reactant | 4-chloro-3-iodo-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=C1)I | C20H20ClF3IN3O
product | 4-Chloro-3-(2-(6-(cyclopropylamino)pyridazin-3-yl)ethynyl)-N-(4-((4-methylpiperazin-1-yl)methyl)-3-(trifluoromethyl)phenyl)benzamide | ClC1=C(C=C(C(=O)NC2=CC(=C(C=C2)CN2CCN(CC2)C)C(F)(F)F)C=C1)C#CC=1N=NC(=CC1)NC1CC1 | C29H28ClF3N6O
